US07582626B2
c) N-{3-[2-(3,3-Dimethylbutyl)-5-hydroxy-3-oxo-2-aza-bicyclo[4.4.0]dec-4-en-4-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
To a solution of cis-2-{(3,3-dimethylbutyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)acetyl]amino}-cyclohexanecarboxylic acid ethyl ester (138.7 mg, 0.243 mmol) in absolute ethanol (10 mL) was added a 21% w/w solution of sodium ethoxide in ethanol (0.91 mL, 2.44 mmol). After stirring at 60° C. for 13 h, the mixture was diluted with ethyl acetate and acidified with 1.0 M aqueous hydrochloric acid solution to pH 1. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated in vacuo. The crude mixture was purified by flash column chromatography (Teledyne Isco RediSep Flash Column; 0-100% ethyl acetate in hexanes) to afford the desired product, N-{3-[2-(3,3-dimethylbutyl)-5-hydroxy-3-oxo-2-aza-bicyclo[4.4.0]dec-4-en-4-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (44.3 mg, 0.084 mmol, 35%), as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 0.94 (9H, s), 1.10-1.87 (9H, m), 2.32 (1H, bs), 3.04 (3H, s), 2.92-3.82 (4H, m), 7.47-7.58 (3H, m), 10.13 (1H, bs). LC-MS (ESI) calcd for C23H32N4O6S2 524.18, found 525.3 [M+H+]. Anal. calcd for C23H32N4O6S2: C, 52.65; H, 6.15; N, 10.68; S, 12.22, found C, 52.56; H, 6.10; N, 10.71; S, 12.16.

reactant | cis-2-{(3,3-dimethylbutyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)acetyl]amino}-cyclohexanecarboxylic acid ethyl ester | 0.243 mmol, 138.7 mg | C(C)OC(=O)[C@H]1[C@H](CCCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)CCC(C)(C)C | C25H38N4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2.44 mmol, 0.91 mL | C(C)O | C2H6O
product | N-{3-[2-(3,3-dimethylbutyl)-5-hydroxy-3-oxo-2-aza-bicyclo[4.4.0]dec-4-en-4-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.084 mmol, 44.3 mg, 35% | CC(CCN1C2CCCCC2C(=C(C1=O)C1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)O)(C)C | C23H32N4O6S2
